US08802738B2
For example, 4-azidobenzylphosphorylcholine was made as follows: 4-aminobenzyl alcohol was treated with HCl and reacted with sodium nitrate, followed by sodium azide to yield 4-azidobenzyl alcohol. The product was recovered in 55% yield as a brown solid and purified by column chromatography. The product was characterized by NMR and IR. 4-azidobenzyl alcohol was treated with triethylamine, and 2-chloro-2-oxo-1,3,2-dioxaphospholane (COP) was added to the solution. The resulting compound was reacted with trimethylamine to yield the final product of 4-azidobenzylphosphorylcholine. The final product was obtained as a pale brown powder in 60% yield and characterized by NMR and IR.

reactant | 4-azidobenzylphosphorylcholine | N(=[N+]=[N-])C1=CC=C(CP(=O)=C(O)C[N+](C)(C)C)C=C1
reactant | 4-aminobenzyl alcohol | NC1=CC=C(CO)C=C1 | C7H9NO
reactant | HCl | Cl | ClH
reactant | sodium nitrate | [N+](=O)([O-])[O-].[Na+]
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
product | 4-azidobenzyl alcohol | 55% yield | N(=[N+]=[N-])C1=CC=C(CO)C=C1 | C7H7N3O
